US07833940B2
6-Hydroxy-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester(150 mg, 0.48 mmol) was combined with N-bromosuccinimide (180 mg, 1.0 mmol) in 7 mL dichloromethane plus 2 mL acetonitrile and heated to reflux for 2 hours. After cooling the volatiles were removed under vacuum and the residue was taken up in 15 mL dichloromethane plus 5 mL water. The organic phase was separated and washed with 10 mL 5% sodium bisulfite solution, washed with 10 mL brine, dried and evaporated to give 120 mg (63% yield) of 6-hydroxy-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-bromopyrimidine-4-carboxylic acid methyl ester: mp 192-195° C.; MS m/z 390/392; 1H NMR (DMSO-d6): δ 7.47 (m, 3H), 3.95 (d, 3H), 3.91 (s, 3H)

reactant | 6-Hydroxy-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester | 0.48 mmol, 150 mg | COC(=O)C1=NC(=NC(=C1)O)C1=C(C(=C(C=C1)Cl)OC)F | C13H10ClFN2O4
reactant | N-bromosuccinimide | 1.0 mmol, 180 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 6-hydroxy-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-bromopyrimidine-4-carboxylic acid methyl ester | 120 mg, 63% yield | COC(=O)C1=NC(=NC(=C1Br)O)C1=C(C(=C(C=C1)Cl)OC)F | C13H9BrClFN2O4
